US05104888
5-{4-[6-Hydroxy-2-methyl-4-oxo-7-(1,1,3,3-tetramethylbutyl)chroman-2-ylmethoxy]benzyl}thiazolidine-2,4-dione
A mixture of 5.2 g of 5-{4-[6-acetoxy-2-methyl-4-oxo-7-(1,1,3,3-tetramethylbutyl) chroman-2-ylmethoxy]-benzyl}-2-iminothiazolidin-4-one prepared as described in Preparation 26), 16 ml of 2N hydrochloric acid and 25 ml of ethylene glycol monomethyl ether was heated for 6 hours at 85°-90° C. under a nitrogen atmosphere. The reaction mixture was then poured into water and extracted with benzene. The benzene extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography, eluted with a 4:1 by volume mixture of benzene and ethyl acetate, to give the title compound as a slightly yellow foamy solid, softening at 100°-105° C.

reactant | 5-{4-[6-acetoxy-2-methyl-4-oxo-7-(1,1,3,3-tetramethylbutyl) chroman-2-ylmethoxy]-benzyl}-2-iminothiazolidin-4-one | 5.2 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(CC(C)(C)C)(C)C)(C)COC1=CC=C(CC2C(NC(S2)=N)=O)C=C1)=O | C31H38N2O6S
reactant | hydrochloric acid | 2N, 16 ml | Cl | ClH
reactant | ethylene glycol monomethyl ether | 25 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 5-{4-[6-Hydroxy-2-methyl-4-oxo-7-(1,1,3,3-tetramethylbutyl)chroman-2-ylmethoxy]benzyl}thiazolidine-2,4-dione | OC=1C=C2C(CC(OC2=CC1C(CC(C)(C)C)(C)C)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O | C29H35NO6S
